US05576343
4.87 g of 2-formyl-5-methoxybenzoic acid was dissolved in 30 ml of chloroform. With stirring at room temperature, a benzene/n-hexane (1:1) mixture solution of diphenyldiazomethane prepared in accordance with the procedure disclosed in Journal of the Chemical Society (Parkin I, pp. 2030-2033, 1975) was added to the above solution until the reaction solution showed a purplish red color. The resulting reaction solution was subjected to purification by silica gel column chromatography using a toluene/ethyl acetate mixture as an eluant to obtain 8.2 g of diphenylmethyl 2-formyl-5-methoxybenzoate as a viscous oil.

reactant | 2-formyl-5-methoxybenzoic acid | 4.87 g | C(=O)C1=C(C(=O)O)C=C(C=C1)OC | C9H8O4
reactant | benzene n-hexane | C1=CC=CC=C1.CCCCCC
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | diphenylmethyl 2-formyl-5-methoxybenzoate | 8.2 g | C(=O)C1=C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)OC | C22H18O4
